US05506256
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(phenylsulfonyl)ethyl]pyrrolidine (500 mg) was subjected to DMSO-DCC oxidation as in Example 1-D) to give 412 mg of (2S)-1-(N-benzyloxycarbonyl-L-prolyl)-2-[(phenylsulfonyl)acetyl]-pyrrolidine (See Table 1).

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[1-hydroxy-2-(phenylsulfonyl)ethyl]pyrrolidine | 500 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)(=O)C2=CC=CC=C2)O)CCC1 | C25H30N2O6S
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-1-(N-benzyloxycarbonyl-L-prolyl)-2-[(phenylsulfonyl)acetyl]-pyrrolidine | 412 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)(=O)C2=CC=CC=C2)=O)CCC1 | C25H28N2O6S
